US07163937B2
A solution of 3-trifluoromethylbenzaldehyde (6.7 mL) in tetrahydrofuran (40 mL) was stirred on an ice bath and treated dropwise over 25 min with a solution of vinylmagnesium bromide in tetrahydrofuran (1.0 M, 60 mL). The mixture was stirred for 2 h while allowing to warm slowly to room temperature, then was treated with saturated aqueous ammonium chloride. The mixture was extracted with ether, and the organic extracts were washed with water and brine, then dried over sodium sulfate and concentrated under vacuum. Purification by flash column chromatography, eluting with 10% ethyl acetate in hexane, provided 1-(3-trifluoromethylphenyl)prop-2-en-1-ol (2.33 g) as a colorless oil. MS found: (M+H−H2O)+=185.19.

reactant | 3-trifluoromethylbenzaldehyde | 6.7 mL | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 M, 60 mL | O1CCCC1 | C4H8O
product | 1-(3-trifluoromethylphenyl)prop-2-en-1-ol | 2.33 g | FC(C=1C=C(C=CC1)C(C=C)O)(F)F | C10H9F3O
